US07476685B2
1,2-Dibromoethane (0.06 ml) was added to a suspension of 1-hydroxyl-1-isopropyl-3-(4-trifluoromethyl-3-pyridylcarbonyl)urea (0.20 g) and potassium carbonate (0.20 g) in N,N-dimethylformamide at 20° C., and stirred for 3 hours. Ethyl acetate and water were added and the organic phase dried (magnesium sulfate), evaporated and the residue purified by column chromatography on silica gel, eluting with n-hexane/ethyl acetate (2:1), to give 2-isopropyl-4-(4-trifluoromethyl-3-pyridylcarbonyl)-perhydro-1,2,4-oxadiazin-3-one (0.25 g, Compound U-3).

reactant | 1,2-Dibromoethane | 0.06 ml | BrCCBr | C2H4Br2
reactant | 1-hydroxyl-1-isopropyl-3-(4-trifluoromethyl-3-pyridylcarbonyl)urea | 0.20 g | ON(C(=O)NC(=O)C=1C=NC=CC1C(F)(F)F)C(C)C | C11H12F3N3O3
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-isopropyl-4-(4-trifluoromethyl-3-pyridylcarbonyl)-perhydro-1,2,4-oxadiazin-3-one | 0.25 g | C(C)(C)N1OCCN(C1=O)C(=O)C=1C=NC=CC1C(F)(F)F | C13H14F3N3O3
